US07579140B2
2. Preparation of 2-(1-(5-carboxypentyl)-3,3-dimethyl-2-indolinylidenemethyl)-4-(1-(3,5-dinitrobenzyl)-3,3-dimethyl-2-indolinylidenemethyl)cyclobutenediylium--1,3-diolate (Compound (2))
To 1-(3,5-dinitrobenzyl)-2,3,3-trimethyl-3H-indolium iodide (467 mg) was added 3,4-dihydroxy-3-cyclobuten-1,2-dione (110 mg), 1-(5-carboxypentyl)-2,3,3-trimethyl-3H-indolium iodide (354 mg), pyridine (4.5 ml), acetic acid (4.5 ml) and acetic anhydride (1 ml). The mixture was heated to reflux for 3 hours and the solvent then stripped using rotary evaporation. This crude material was subjected to silica flash column chromatography (eluted with MeOH/DCM). Fractions containing product were combined and stripped of solvent. The resulting material was further purified by reverse phase HPLC (CH3CN/H2O/TFA).

reactant | 1-(3,5-dinitrobenzyl)-2,3,3-trimethyl-3H-indolium iodide | 467 mg | [I-].[N+](=O)([O-])C=1C=C(C[N+]2=C(C(C3=CC=CC=C23)(C)C)C)C=C(C1)[N+](=O)[O-]
reactant | 3,4-dihydroxy-3-cyclobuten-1,2-dione | 110 mg | OC=1C(C(C1O)=O)=O | C4H2O4
reactant | 1-(5-carboxypentyl)-2,3,3-trimethyl-3H-indolium iodide | 354 mg | [I-].C(=O)(O)CCCCC[N+]1=C(C(C2=CC=CC=C12)(C)C)C
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-(5-carboxypentyl)-3,3-dimethyl-2-indolinylidenemethyl)-4-(1-(3,5-dinitrobenzyl)-3,3-dimethyl-2-indolinylidenemethyl)cyclobutenediylium--1,3-diolate | C(=O)(O)CCCCCN1C(C(C2=CC=CC=C12)(C)C)=C[C+]1[C+](C(=C1[O-])C=C1N(C2=CC=CC=C2C1(C)C)CC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])[O-] | InChI=1S/C39H39N4O8/c1-38(2)29-12-7-9-14-31(29)40(17-11-5-6-16-35(44)45)33(38)21-27-36(46)28(37(27)47)22-34-39(3,4)30-13-8-10-15-32(30)41(34)23-24-18-25(42(48)49)20-26(19-24)43(50)51/h7-10,12-15,18-22,46H,5-6,11,16-17,23H2,1-4H3,(H,44,45)/q+1/p-1
